US05808091
C. 6,6-Difluoro-3,3,9,9-tetramethyl-12-(2-nitro-1H-imidazol-1-yl)-4,8-diazadodecane-2,10-dione dioxime
A clear solution of 4-(3-amino-2,2-difluoropropylamino)-4-methyl-1-(2-nitro-1H-imidazol-1-yl)-3-pentanone oxime (title B compound) (0.40 g, 1.20 mmol) and N,N-diisopropylethylamine (0.42 g, 3.32 mmol) in acetonitrile (5 mL) was treated with 3-chloro-3-methyl-2-nitrosobutane (prepared analogously to 3-chloro-3-methyl-2-nitroisobutane, Example 1, step (B)) (0.45 g, 3.32 mmol) with stirring at room temperature under nitrogen atmosphere for 2 hours. After evaporation of the solvent under vacuum, the paste thus obtained was loaded, as a powder adsorbed on silica gel, onto a silica gel column and eluted with methanol-dichloromethane (2:98). The fractions with compound were pooled together and evaporated to afford the title product, which was further purified by crystallization from CH2Cl2 --CH3OH to a cream colored solid. Yield: 0.45 g (88%); mp. 90°-92° C.; 1H NMR (DMSO-d6) d 1.12 [s, 12H, C(CH3)2 ], 1.70[s, 3H, C(=NOH)CH3 ], 2.18 & 2.22(2t, 2H, NH), 2.62(m, 4H, CH2CF2), 2.80(t, 2H, J=7.25 Hz, CH2 CH2N), 4.61(t, 2H, J=7.25 Hz, CH2CH2N), 7.15 & 7.52(2s, 2H, imi-H) and 10.46 & 10.90(2s, 2H, NOH). MS m/e 434 (M+H)+. Anal. Calcd for C17H29N7O4F2 : C, 47.11; H, 7.74; N, 22.62; F, 8.77. Found: C, 47.28; H, 6.54; N, 22.79; F, 8.53. HPLC: Retention time: 20.74 min [Microsorb-C18, 0.46×25 cm, 5 m; solvent: 0.1% trifluoroacetic acid (TFA)/water (A) and 0.1% TFA/acetonitrile (B); flow rate: 1.0 mL/min.; run condition: linear gradient, 1% increase in B per min.; ran at 230 and 254 nm for 50 min.; in both cases a single peak was observed; 98.95% (230 nm) and 100% (254 nm)].

reactant | 4-(3-amino-2,2-difluoropropylamino)-4-methyl-1-(2-nitro-1H-imidazol-1-yl)-3-pentanone oxime | NCC(CNC(C(CCN1C(=NC=C1)[N+](=O)[O-])=NO)(C)C)(F)F | C12H20F2N6O3
reactant | N,N-diisopropylethylamine | 3.32 mmol, 0.42 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-chloro-3-methyl-2-nitrosobutane | ClC(C(C)N=O)(C)C | C5H10ClNO
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 6,6-Difluoro-3,3,9,9-tetramethyl-12-(2-nitro-1H-imidazol-1-yl)-4,8-diazadodecane-2,10-dione dioxime | FC(CNC(C(C)=NO)(C)C)(CNC(C(CCN1C(=NC=C1)[N+](=O)[O-])=NO)(C)C)F | C17H29F2N7O4
